US05116862
4-(2,2-Dibromovinyl)cyclohexanecarbonyl chloride (0.91 g) in dry dichloromethane (5 ml) was added to a cooled (0° C.) solution of 3-propyl-3-hydroxymethyloxetane (0.406 g) and pyridine (0.64 ml) in dry dichloromethane (10 ml) under a stream of nitrogen. The reaction mixture was allowed to warm to room temperature and to stir overnight. Further dichloromethane was added. The organic phase was then washed with dilute hydrochloric acid, saturated sodium bicarbonate solution and brine before drying over anhydrous magnesium sulphate. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica gel, pre-eluted with hexane containing 1% triethylamine. Elution with hexane/ether (3:1) gave 3-propyloxetan-3-ylmethyl 4-(2,2-dibromovinyl)cyclohexanecarboxylate (0.6 g) as a mixture of cis- and trans-isomers.

reactant | 4-(2,2-Dibromovinyl)cyclohexanecarbonyl chloride | 0.91 g | BrC(=CC1CCC(CC1)C(=O)Cl)Br | C9H11Br2ClO
reactant | 3-propyl-3-hydroxymethyloxetane | 0.406 g | C(CC)C1(COC1)CO | C7H14O2
reactant | pyridine | 0.64 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-propyloxetan-3-ylmethyl 4-(2,2-dibromovinyl)cyclohexanecarboxylate | 0.6 g | BrC(=CC1CCC(CC1)C(=O)OCC1(COC1)CCC)Br | C16H24Br2O3
